US08084474B2
Step 1: Preparation of 2-methyl-2-nitro-1,3-propanediol ditosylate:
To a solution of 2-methyl-2-nitro-1,3-propanediol (80 g, 0.592 mol) and triethylamine (131.8 g, 1.303 mol) in diethyl ether (250 ml) is added a solution of tosyl chloride (225.7 g, 1.184 mol) in diethyl ether (800 ml) between −15° and −20° C. The resulting suspension is stirred at 0° C. for 1 hour, then 18 hours at ambient temperature. The reaction mixture is filtered, the solid residue is taken up twice in ethyl acetate and stirred, the suspension being filtered again. The combined ethyl acetate layers are evaporated to dryness giving a first crop of crude product (175.8 g). The ether filtrate is washed with water (2×) and brine, dried (Na2SO4), filtered, and partly concentrated. The suspension is filtered giving another 15.0 g of product. The crude solid product (190.8 g, 73%) is used in the next step without further purification.

reactant | 2-methyl-2-nitro-1,3-propanediol | 0.592 mol, 80 g | CC(CO)(CO)[N+](=O)[O-] | C4H9NO4
reactant | triethylamine | 1.303 mol, 131.8 g | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 1.184 mol, 225.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
product | 2-methyl-2-nitro-1,3-propanediol ditosylate | 15.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(COS(=O)(=O)C1=CC=C(C)C=C1)([N+](=O)[O-])C | C18H21NO8S2
